US07507740B2
(iii) Production of 2-(4-phenoxy-5H-pyrrolo[3,2-d]pyrimidin-5-yl)ethane-1,1-diol
4-Phenoxy-5-(2,2-diethoxyethyl)-5H-pyrrolo[3,2-d]pyrimidine (1.1 g) was dissolved in dichloromethane (4.53 mL)/trifluoroacetic acid (4.53 mL), and the mixture was stirred at room temperature for 16 hrs. The reaction mixture was concentrated under reduced pressure, and the residue was dissolved in ethyl acetate (100 mL). The mixture washed with saturated aqueous sodium hydrogen carbonate (80 mL), and the organic layer was dried over magnesium sulfate and concentrated under reduced pressure to give the title compound (826 mg) as a white solid.

reactant | 4-Phenoxy-5-(2,2-diethoxyethyl)-5H-pyrrolo[3,2-d]pyrimidine | 1.1 g | O(C1=CC=CC=C1)C=1C2=C(N=CN1)C=CN2CC(OCC)OCC | C18H21N3O3
solvent | dichloromethane | 4.53 mL | ClCCl | CH2Cl2
solvent | trifluoroacetic acid | 4.53 mL | FC(C(=O)O)(F)F | C2HF3O2
product | 2-(4-phenoxy-5H-pyrrolo[3,2-d]pyrimidin-5-yl)ethane-1,1-diol | 826 mg | O(C1=CC=CC=C1)C=1C2=C(N=CN1)C=CN2CC(O)O | C14H13N3O3
